US09085583B2
Step 2: Ethyl 4H-pyrrolo[2,3-d]thiazole-5-carboxylate
(Z)-ethyl 2-azido-3-(thiazol-5-yl)acrylate (9 g, 40.18 mmol) was dissolved in anhydrous toluene (100 mL), and the resulting reaction was allowed to stir for 2 hours at 120° C. The reaction mixture was concentrated and purified by column chromatograph on silica gel eluted with (petrol ether/acetic ester 15:1→10:1→8:1) to give the title compound (5 g, 63.5%) as an yellow solid. LCMS (M+H+) m/z: calcd. 196.03. found 196.9.

reactant | (Z)-ethyl 2-azido-3-(thiazol-5-yl)acrylate | 40.18 mmol, 9 g | N(=[N+]=[N-])\C(\C(=O)OCC)=C/C1=CN=CS1 | C8H8N4O2S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4H-pyrrolo[2,3-d]thiazole-5-carboxylate | 5 g, 63.5% | S1C=NC2=C1C=C(N2)C(=O)OCC | C8H8N2O2S
